US07851157B1
3′,5′-Bis-O-(tert-butyldimethylsilyl)deoxyguanosine (1.5 g, 3.02 mmol) was azeotroped with anhydrous pyridine three times and then dissolved in anhydrous pyridine (15 mL), and trimethylsilyl chloride (576 μL, 4.53 mmol) was added thereto. The mixture was stirred at room temperature for 1 hour, and then phenyl chloroformate (569 μL, 3.93 mmol) was added thereto. The mixture was stirred at room temperature for 4 hours. A 40% methylamine methanol solution (1.8 mL, 15.1 mmol) was added thereto, and the mixture was stirred at room temperature for 2 hours. The reaction solution was extracted with ethyl acetate (200 mL)/water (150 mL) once and then with ethyl acetate (200 mL)/brine (150 mL) twice. The organic layer was dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by NH silica gel column chromatography with methanol/50% to 80% chloroform to give 3′,5′-bis-O-(tert-butyldimethylsilyl)-2-N-methylcarbamoyldeoxyguanosine (1.38 g, 78%).

reactant | 3′,5′-Bis-O-(tert-butyldimethylsilyl)deoxyguanosine | 3.02 mmol, 1.5 g | [Si](C)(C)(C(C)(C)C)O[C@H]1C[C@@H](O[C@@H]1CO[Si](C)(C)C(C)(C)C)N1C=NC=2C(=O)NC(N)=NC12 | C22H41N5O4Si2
reactant | trimethylsilyl chloride | 4.53 mmol, 576 μL | C[Si](C)(C)Cl | C3H9ClSi
reactant | phenyl chloroformate | 3.93 mmol, 569 μL | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | methylamine methanol | 15.1 mmol, 1.8 mL | CO.CN
solvent | pyridine | 15 mL | N1=CC=CC=C1 | C5H5N
product | 3′,5′-bis-O-(tert-butyldimethylsilyl)-2-N-methylcarbamoyldeoxyguanosine | 1.38 g, 78% | [Si](C)(C)(C(C)(C)C)O[C@H]1C[C@@H](O[C@@H]1CO[Si](C)(C)C(C)(C)C)N1C=NC=2C(=O)NC(NC(NC)=O)=NC12 | C24H44N6O5Si2
